US07763657B2
Step 3: (R)—N-(4-{1-[3-(4-tert-Butylphenyl)ureido]ethyl}-2-trimethylsilanylethynylphenyl)methanesulfonamide
(R)—N-[4-(1-Amino-ethyl)-2-trimethylsilanylethynylphenyl]methanesulfonamide (75.0 mg, 0.242 mmol, 1 eq.) and Triethylamine (67.5 μl, 0.484 mmol, 2 eq.) were dissolved in methylene chloride. The mixture was cooled down to 0° C. 4-tert-Butylphenyl isocyanate (47.2 μl, 0.266 mmol, 1.1 eq.) was added into the reaction mixture. The reaction mixture was stirred for 40 min. A reaction solvent was removed in vacuo. The residue was purified with column chromatography (n-Hx:EA=2:1) to yield title compound (45.3 mg, 39%) as a solid.

reactant | (R)—N-[4-(1-Amino-ethyl)-2-trimethylsilanylethynylphenyl]methanesulfonamide | 0.242 mmol, 75.0 mg, 1 eq. | N[C@H](C)C1=CC(=C(C=C1)NS(=O)(=O)C)C#C[Si](C)(C)C | C14H22N2O2SSi
reactant | Triethylamine | 0.484 mmol, 67.5 μl, 2 eq. | C(C)N(CC)CC | C6H15N
reactant | 4-tert-Butylphenyl isocyanate | 0.266 mmol, 47.2 μl, 1.1 eq. | C(C)(C)(C)C1=CC=C(C=C1)N=C=O | C11H13NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-{1-[3-(4-tert-Butylphenyl)ureido]ethyl}-2-trimethylsilanylethynylphenyl)methanesulfonamide | 45.3 mg, 39% | C(C)(C)(C)C1=CC=C(C=C1)NC(N[C@H](C)C1=CC(=C(C=C1)NS(=O)(=O)C)C#C[Si](C)(C)C)=O | C25H35N3O3SSi
